US09302996B2
N,N-dimethylformamide (4 mL) was added to 2-(4-bromo-2-fluorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole (500 mg), methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}propanoate (477 mg) and palladium chloride (dppf) methylene chloride complex (46 mg), and after adding 2N aqueous sodium carbonate solution (1.71 mL) to the mixture, the atmosphere was replaced with nitrogen and the resulting mixture was stirred at 60° C. for 5 hours. To the reaction mixture were added ethyl acetate and water, and the liquids were separated. The organic layer was separated, washed with a saturated brine, and the residue obtained by concentrating the mixture under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5 to 82:18) to obtain methyl 3-[(5-{3-fluoro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoate (677 mg).

reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | 2-(4-bromo-2-fluorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole | 500 mg | BrC1=CC(=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)F | C16H19BrF4N2OSi
reactant | methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}propanoate | 477 mg | CC(C(=O)OC)(COC1=NC=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)C | C18H28BNO5
reactant | sodium carbonate | 2N, 1.71 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[(5-{3-fluoro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]-2,2-dimethylpropanoate | 677 mg | FC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C | C28H35F4N3O4Si
